US09056859B2
A solution (4-amino-3-methoxyphenyl)acetic acid (1.63 g, 9.006 mmol) and triethyl orthoformate (4.0 g, 27.018 mmol) in 100 mL of HOAc was added sodium azide (644 mg, 9.907 mmol) and heated to 100° C. overnight. The solvent was removed under vacuum. The residue was dissolved in EtOAc, washed with water, dried over anhydrous sodium sulfate, and concentrated to give [3-methoxy-4-(1H-tetrazol-1-yl)phenyl]acetic acid, which was used for next step without purification.

reactant | (4-amino-3-methoxyphenyl)acetic acid | 9.006 mmol, 1.63 g | NC1=C(C=C(C=C1)CC(=O)O)OC | C9H11NO3
reactant | triethyl orthoformate | 27.018 mmol, 4.0 g | C(OCC)(OCC)OCC | C7H16O3
reactant | sodium azide | 9.907 mmol, 644 mg | [N-]=[N+]=[N-].[Na+]
solvent | HOAc | 100 mL | CC(=O)O | C2H4O2
product | [3-methoxy-4-(1H-tetrazol-1-yl)phenyl]acetic acid | COC=1C=C(C=CC1N1N=NN=C1)CC(=O)O | C10H10N4O3
